US04176184
(a) 4,4-Dimethyl-7-(2-methoxy-4-methylmercapto-benzoylamino)-8-nitro-2H,4H-isoquinoline-1,3-dione
Prepared analogous to Example 2a from 5 gm of 4,4-dimethyl-7-amino-8-nitro-2H,4H-isoquinoline-1,3-dione and 2-methoxy-4-methylmercapto-benzoyl chloride.

reactant | 4,4-dimethyl-7-amino-8-nitro-2H,4H-isoquinoline-1,3-dione | 5 gm | CC1(C(NC(C2=C(C(=CC=C12)N)[N+](=O)[O-])=O)=O)C | C11H11N3O4
reactant | 2-methoxy-4-methylmercapto-benzoyl chloride | COC1=C(C(=O)Cl)C=CC(=C1)SC | C9H9ClO2S
product | 4,4-Dimethyl-7-(2-methoxy-4-methylmercapto-benzoylamino)-8-nitro-2H,4H-isoquinoline-1,3-dione | CC1(C(NC(C2=C(C(=CC=C12)NC(C1=C(C=C(C=C1)SC)OC)=O)[N+](=O)[O-])=O)=O)C | C20H19N3O6S
